* C:\Users\dcostine\Dropbox\UTK\Research\AURA\Ideas\LTparseFormat\Buck.asc
M1 N001 NC_01 N002 N002 BSC900N20NS3
M2 N002 NC_02 0 0 NMOS ron = 1m Coss = {Coss}
V1 N006 0 48
Vm_Ig N006 N005 0
Rg N005 N001 1m
L1 N002 N003 {Lf}
C1 N003 0 Cout
R1 N003 0 Rout
D1 0 N002 D Vf={Vf} Ron={1m} Cd=100p
D2 N002 N001 D Vf={Vf}  Ron={1m} Cd=100p
.model D D
.lib C:\Users\dcostine\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\dcostine\Documents\LTspiceXVII\lib\cmp\standard.mos
.param Lf = 1u
.param Coss = 1n
.param Cout = 1e-3
.param Rout = 100
.param Vf = 1
.param ts = [1u 50n 1u 50n]
.param swvec = [1 0 0 0; 0 0 0 0; 0 1 0 0; 0 0 0 0]
.backanno
.end
